US04293435
1.1.2. Preparation of 4-[2-(2-methylpropenoyloxy)-ethoxy]-benzoic acid
50 g of p-(2-hydroxyethoxy)-benzoic acid, 130 g of methacrylic acid, 5 g of p-toluenesulfonic acid and 5 g of hydroquinone as an inhibitor are dissolved in 200 ml of CHCl3 and the solution is refluxed in a 500 ml flask, fitted with a water separator and reflux condenser, until about 6 ml of water have separated out (about 20 hours). The cooled solution is introduced into about 1 liter of ether and is washed with 5 portions of water each of about 200 ml. After drying the solution with Na2SO4, the solvents are stripped off and the crude product is recrystallized as described under 1.1.1.

reactant | p-(2-hydroxyethoxy)-benzoic acid | 50 g | OCCOC1=CC=C(C(=O)O)C=C1 | C9H10O4
reactant | methacrylic acid | 130 g | C(C(=C)C)(=O)O | C4H6O2
reactant | p-toluenesulfonic acid | 5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | hydroquinone | 5 g | C1(O)=CC=C(O)C=C1 | C6H6O2
solvent | CHCl3 | 200 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 4-[2-(2-methylpropenoyloxy)-ethoxy]-benzoic acid | CC(C(=O)OCCOC1=CC=C(C(=O)O)C=C1)=C | C13H14O5
